* E:\my project\ltspice\Close-loop.asc
M1 N002 N008 N010 0 MyNMOS l=0.4u w=0.8696u
M2 N010 N009 N007 0 MyNMOS l=0.4u w=0.8696u
M 0 N011 N011 N014 MyNMOS l=0.5u w=60.375u
M3 N002 N002 N001 N003 MyPMOS l=0.4u w=2u
M4 N001 N002 N007 N004 MyPMOS l=0.4u w=2u
M0 N010 N011 0 N013 MyNMOS l=0.8u w=966u
I1 0 N011 2µ
M6 Vout N011 0 N012 NMOS l=0.5u w=210u
V1 N001 0 1.8
M5 N001 N007 Vout N005 PMOS l=0.55u w=1.9u
R1 N008 Vout 1Meg
R3 0 N008 2Meg
V2 N009 P001 SINE(0 0.2 100)
R2 N001 N008 2Meg
V3 P001 0 0.9
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lenovo\AppData\Local\LTspice\lib\cmp\standard.mos
.model MyNMOS NMOS (VTO=0.39 KP=230u LAMBDA=0.08)
.model MyPMOS PMOS (VTO=-0.37 KP=100u LAMBDA=0.12)
.model nmos NMOS (VTO=0.39 KP=230u LAMBDA=0.5)
.model pmos PMOS (VTO=-0.37 KP=100u LAMBDA=0.6)
.tran 100m
.backanno
.end
